US07615562B2
Step C: 1-{4-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-propan-2-ol
The title compound was prepared by reduction of {4-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-propan-2-one with sodium borohydride in MeOH. Yield: 32 mg (100%).

reactant | {4-[2-(2,2,6,6-tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-propan-2-one | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)CC(C)=O)(C)C)C | C22H30N4O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | 1-{4-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-phenyl}-propan-2-ol | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)CC(C)O)(C)C)C | C22H32N4O
